US07834051B2
rac-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile
Using 2-methoxy-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (100 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.551 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as a colorless solid (yield: 75 mg, 74%).

reactant | 2-methoxy-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 100 mg | COC1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O | C15H16N2O3
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.551 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-4-[(4R,5R)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile | O[C@@H]1C(C(N([C@@H]1C)C1=CC(=C(C#N)C=C1)OC)=O)(C)C | C15H18N2O3
